US04625038
To a solution of (2S-trans)-1-[(benzyloxy)-carbonyl]-4-cyclohexyl-2-pyrrolidinemethanol (0.65 g) in dimethylformamide (10 ml) was added pyridinium dichromate (2.1 g). The mixture was stirred at room temperature for 16 hours and poured onto crushed ice and hydrochloric acid (25 ml). Extraction with ethyl acetate followed by solvent evaporation yielded 0.4 g of (trans)-1-[benzyloxy)carbonyl]-4-cyclohexyl-L-proline as a thick oil. The compound can be deprotected using catalytic hydrogenation as described in Method V.

reactant | (2S-trans)-1-[(benzyloxy)-carbonyl]-4-cyclohexyl-2-pyrrolidinemethanol | 0.65 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)C1CCCCC1)CO | C19H27NO3
reactant | pyridinium dichromate | 2.1 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-cyclohexyl-L-proline | C1(CCCCC1)C1C[C@H](NC1)C(=O)O | C11H19NO2
